US05302720
Reaction of 2-amino-4-methylthiobiphenyl (10.8 g) with thiophosgene (4.6 ml) in a mixture of dioxan (10 ml) and water (200 ml) at 10° C. and then at ambient temperature for 15 hours yielded 4-methylthio-2-biphenylylisothiocyanate as a yellow oil.

reactant | 2-amino-4-methylthiobiphenyl | 10.8 g | NC1=C(C=CC(=C1)SC)C1=CC=CC=C1 | C13H13NS
reactant | thiophosgene | 4.6 ml | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 4-methylthio-2-biphenylylisothiocyanate | CSC=1C=C(C(=CC1)C1=CC=CC=C1)N=C=S | C14H11NS2
